US05668291
2,2'-Dithiobisbenzol chloride
A mixture of 2,2'-dithiobisbenzoic acid (25 g, 81.6 mmol) in 350 mL of thionyl chloride was heated at reflux for 18 hours. The resulting solution was cooled to about 30° C. and excess thionyl chloride was removed in vacuo. The crude solid was slurried in hexane and the title compound was recovered by filtration to yield 21.2 g. This compound was used without further purification, mp 150°-151° C.;

reactant | 2,2'-dithiobisbenzoic acid | 81.6 mmol, 25 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)O)C=CC=C1)(=O)O | C14H10O4S2
reactant | thionyl chloride | 350 mL | S(=O)(Cl)Cl | Cl2OS
product | 2,2'-Dithiobisbenzol chloride | [Cl-].C1=C(C=CC=C1)SSC1=CC=CC=C1 | InChI=1S/C12H10S2.ClH/c1-3-7-11(8-4-1)13-14-12-9-5-2-6-10-12;/h1-10H;1H/p-1
